US06649636B1
2-Hydroxy-4-acetylbenzonitrile
5-acetylsalicylamide (10.04 g, 56 mmol) and diphosgene (18.4 g, 93 mmol) were heated in dioxane (65 ml) to70° C. under nitrogen for 18 hours. The mixture was cooled, cautiously poured into cold water (700 ml) and stirred for 1 hour to destroy excess diphosgene reagent. The mixture was extracted with ethyl acetate, and the organic solution washed with water and brine, dried over sodium sulfate, filtered, and evaporated. The residue was recrystallized from toluene/acetonitrile to give the title compound.

reactant | 5-acetylsalicylamide | 56 mmol, 10.04 g | C(C)(=O)C1=CC=C(C(C(=O)N)=C1)O | C9H9NO3
reactant | diphosgene | 93 mmol, 18.4 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | water | 700 ml | O | H2O
reactant | dioxane | 65 ml | O1CCOCC1 | C4H8O2
product | 2-Hydroxy-4-acetylbenzonitrile | OC1=C(C#N)C=CC(=C1)C(C)=O | C9H7NO2
